US07087576B2
5-[4-(4-(2-(2-Aminoacetamido)-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione hydrochloride
A solution of 5-[4-(4-(2-(2-t-butoxycarbonylaminoacetamido)-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione (0.73 g, 1.31 mmol) in dichloromethane (30 ml) was bubbled with HCl gas at −10° C. for 1.25 h. The excess HCl gas was removed by N2 bubbling and the solvent was removed by distillation to provide the title compound (0.51 g, yield 78.8%).

reactant | 5-[4-(4-(2-(2-t-butoxycarbonylaminoacetamido)-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione | 1.31 mmol, 0.73 g | C(C)(C)(C)OC(=O)NCC(=O)NC(CC1=CC=C(OC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC | C27H31N3O8S
reactant | HCl | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-[4-(4-(2-(2-Aminoacetamido)-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione hydrochloride | 0.51 g, yield 78.8% | Cl.NCC(=O)NC(CC1=CC=C(OC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC | InChI=1S/C22H23N3O6S.ClH/c1-30-21(28)17(24-19(26)12-23)10-13-2-6-15(7-3-13)31-16-8-4-14(5-9-16)11-18-20(27)25-22(29)32-18;/h2-9,17-18H,10-12,23H2,1H3,(H,24,26)(H,25,27,29);1H
